US04234594
1-Acetyl-2[1-(2-methylphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline
5-Amino-3-methyl-1-(2-methylphenyl)pyrazole HCl (Farmaco, 19, 638, 1964) (26.5 g.) and 1-acetyl-2-imidazolinone (18.2 g.) were reacted as described in Example I to give 12.6 g. product, mp 160°-161°.

reactant | 5-Amino-3-methyl-1-(2-methylphenyl)pyrazole HCl | 26.5 g | Cl.NC1=CC(=NN1C1=C(C=CC=C1)C)C
reactant | 1-acetyl-2-imidazolinone | 18.2 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2[1-(2-methylphenyl)-3-methyl-5-pyrazolyl]amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1C1=C(C=CC=C1)C)C | C16H19N5O
